US05834471
N-(4-Methoxy-3-(4-methyl-1-piperazinyl)phenyl)-4-(3-thiophenyl)-3-methylbenzamide
N-(4Methoxy-3-(4-methyl-1-piperazinyl)phenyl)-4-bromo-3-methylbenzamide (0.35 g, 0.84 mmol), sodium carbonate (89 mg, 0.84 mmol), tetrakis (triphenylphosphine)palladium(0) (49 mg, 0.05 equiv), 3-thiophenyl boronic acid (115 mg, 0.84 mmol) in water (18 ml) and DME (18 ml) were heated at reflux under argon for 18 h. The solution was partitioned between saturated aqueous potassium carbonate solution (50 ml) and chloroform (50 ml), the organic extracts dried (sodium sulphate), filtered and evaporated to dryness under reduced pressure. The resulting oil was purified by column chromatography (silica, chloroform/methanol 5-30%) to afford the tide compound as an oil (242 mg, 63%) which was crystallised as an oxalate salt from methanol chloroform.

reactant | N-(4Methoxy-3-(4-methyl-1-piperazinyl)phenyl)-4-bromo-3-methylbenzamide | 0.84 mmol, 0.35 g | COC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)Br)C)=O)N1CCN(CC1)C | C20H24BrN3O2
reactant | sodium carbonate | 0.84 mmol, 89 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-thiophenyl boronic acid | 0.84 mmol, 115 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
solvent | water | 18 ml | O | H2O
solvent | DME | 18 ml | COCCOC | C4H10O2
product | N-(4-Methoxy-3-(4-methyl-1-piperazinyl)phenyl)-4-(3-thiophenyl)-3-methylbenzamide | 242 mg, 63% | COC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)C1=CSC=C1)C)=O)N1CCN(CC1)C | C24H27N3O2S
